US07138401B2
Step 5: 6-Chloro-9-(5-methoxy-4-methoxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine
A mixture of 6-chloro-9-(5-hydroxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine, MeI, K2CO3 (excess) and DMF was heated to 50° C. for 15 min. Work-up (EtOAc), drying (MgSO4), evaporation, and purification by preparative TLC gave the title compound. HPLC Rt: 5.446 min. 1H-NMR (CDCl3) δ 8.35 (s, 1H), 7.70 (s, 1H), 5.35 (s, 2H), 5.25 (s, 2H), 5.15 (s, 2H), 3.80 (s, 3H) 2.59 (s, 3H), 1.970 (s, 3H).

reactant | 6-chloro-9-(5-hydroxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC=1C=NC(=C(C1CO)O)C | C13H13ClN6O2
reactant | MeI | CI | CH3I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Chloro-9-(5-methoxy-4-methoxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC=1C=NC(=C(C1COC)OC)C | C15H17ClN6O2
